US08283354B2
Under an N2 atmosphere, BOP (138 mg, 0.31 mmol) was added in a single portion to a stirring solution of 2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (100 mg, 0.31 mmol), (R)-2-hydroxy-4-methylpentanoic acid (41 mg, 0.31 mmol), and triethylamine (43 μL, 0.31 mmol) in DMF (0.5 ml). After stirring the mixture for 1 h at room temperature, it was partitioned between H2O and ether. The organic phase was washed with H2O (3×20 mL), dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 20% EtOAc and 80% CH2Cl2 gave (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one as a light yellow solid (89 mg, 60%). LC/MS: m/z 435.1 (M+H)+ at 2.93 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, CDCl3) δ 8.46 (dd, J=7.9, 1.7 Hz, 1H), 7.76 (d, J=8.5 Hz, 1H), 7.66 (s, 1H), 7.41-7.37 (m, 1H), 7.30 (dd, J=8.5, 1.5 Hz, 1H), 7.06-7.04 (m, 1H), 6.98-6.94 (m, 1H), 4.51-4.45 (m, 1H), 4.04-3.80 (m, 6H), 3.72-3.62 (m, 3H), 2.56 (s, 3H), 2.12-1.99 (m, 1H), 1.57-1.49 (m, 1H), 1.38-1.32 (m, 1H), 1.05 (d, J=6.6 Hz, 3H), 1.00 (d, J=6.7 Hz, 3H).

reactant | BOP | 0.31 mmol, 138 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.31 mmol, 100 mg | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
reactant | (R)-2-hydroxy-4-methylpentanoic acid | 0.31 mmol, 41 mg | O[C@@H](C(=O)O)CC(C)C | C6H12O3
reactant | triethylamine | 0.31 mmol, 43 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one | 89 mg, 60% | O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC(C)C | C25H30N4O3
